US04737488
N-(D-Glucopyranosyl)dodecylamine
18 g of D-glucose are stirred in 50 ml of ethanol at 70° C., 18.5 g of dodecylamine are then added, heating is continued until the solution is clear, the mixture is left to cool to room temperature and the precipitated crystals are filtered off with suction for a further 20 hours. They are washed with ethanol and ether and dried in vacuo.

reactant | D-glucose | 18 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | dodecylamine | 18.5 g | C(CCCCCCCCCCC)N | C12H27N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(D-Glucopyranosyl)dodecylamine | C1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCCCCCCCCCN | C18H37NO5
